US07795447B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(3,3-dimethyl-butyryl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide
Following the procedure for Example 21; 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide was coupled with t-butylacetylchloride to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 30.2, 31.6, 33.0, 33.8, 36.0, 40.6, 43.0, 44.9, 45.7, 53.0, 55.7, 102.6, 102.8, 103.1, 105.8, 112.3, 112.4, 112.5, 112.6, 131.5, 137.8, 138.8, 138.9, 161.8, 162.0, 164.3, 164.5, 169.3, 169.5, 170.6; MS 518.30 m/z (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide | N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H27F2N5O2
reactant | t-butylacetylchloride | C(C)(C)(C)CC(=O)Cl | C6H11ClO
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(3,3-dimethyl-butyryl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide | CC(CC(=O)N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(C)C | C27H37F2N5O3
